US06593467B2
When the reduction is carried out by using tributyltin hydride, the reaction takes place by dissolving 5′-deoxy-5′-iodo-5-fluorouridine in an alcohol, for example methanol, the reducing agent being added as a solution in an organic solvent, for example in toluene, and the mixture is heated at reflux in the presence of α,α′-azoisobutyro nitrile in catalytic amount. After 1÷3 hours the reduction is complete and, after evaporation of the solvent, the 5′-deoxy-5-fluorouridine thus obtained is recovered according to conventional methods.

reactant | tributyltin hydride | C(CCC)[SnH](CCCC)CCCC
reactant | 5′-deoxy-5′-iodo-5-fluorouridine | IC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C9H10FIN2O5
reactant | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5′-deoxy-5-fluorouridine | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)=O | C9H11FN2O5
